US04804400
A mixture of 3 g of N-(2-fluoro-4-chloro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide, 4.5 g of potassium carbonate, 1 ml of 1,3-dichloropropene and 50 ml of 2-butanone is heated under reflux for 16 hours. The precipitate is separated off and the filtrate is concentrated by evaporation. 3.3 g of N-[2-fluoro-5-(3-chlorallyloxycarbonyl)-4-chlorophenyl]-2,3-dimethylmaleic acid imide are obtained in the form of an oil. Refractive index nD24 1.5640.

reactant | N-(2-fluoro-4-chloro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide | 3 g | FC1=C(C=C(C(=C1)Cl)C(=O)O)N1C(C(=C(C1=O)C)C)=O | C13H9ClFNO4
reactant | potassium carbonate | 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dichloropropene | 1 ml | ClC=CCCl | C3H4Cl2
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | N-[2-fluoro-5-(3-chlorallyloxycarbonyl)-4-chlorophenyl]-2,3-dimethylmaleic acid imide | 3.3 g | FC1=C(C=C(C(=C1)Cl)C(=O)OCC=CCl)N1C(C(=C(C1=O)C)C)=O | C16H12Cl2FNO4
